US08754053B2
310 mg of 5-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-fluoro-benzonitrile (Example I10) 73 mg of 1,2,4-triazole and 166 mg of potassium carbonate were stirred in 5 ml acetonitrile at room temperature for 24 hours. The solid was filtered off and the filtrate was evaporated under reduced pressure. The residue was purified on silica gel (elutant diethylether) affording 5-[3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-[1,2,4]triazol-1-yl-benzonitrile as a solid in 71% yield. 1H-NMR (CDCl3, δ in ppm): 8.96 (s, 1H), 8.17-8.28 (m, 3H), 7.99 (d, 1H), 7.37-7.39 (m, 2H), 7.17 (s, 2H).

reactant | 5-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-fluoro-benzonitrile | 310 mg | ClC=1C=C(C=C(C1)Cl)C(=CC(=O)C=1C=CC(=C(C#N)C1)F)C(F)(F)F | C17H7Cl2F4NO
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 166 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 5-[3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-[1,2,4]triazol-1-yl-benzonitrile | 71% yield | ClC=1C=C(C=C(C1)Cl)C(=CC(=O)C=1C=CC(=C(C#N)C1)N1N=CN=C1)C(F)(F)F | C19H9Cl2F3N4O
